US08278343B2
Preparation 63: 3-(2,3-Difluoro-phenoxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation using 2,3-difluoro-phenol and 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 12) to afford the racemate as a white solid (167 mg, 68%) ES m/z 408 [MH]+

reactant | 2,3-difluoro-phenol | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)CI | C15H17FINO3
product | 3-(2,3-Difluoro-phenoxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)COC1=C(C(=CC=C1)F)F | C21H20F3NO4
